US03954769
16 G. of 1-{2-methyl-8-(methylthio)-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine are dissolved in 200 ml. of diglyme and, at room temperature under an atmosphere of nitrogen, treated with 11.5 g. of sodium borohydride. The reaction mixture is stirred for 30 minutes and the within 45 minutes treated with a solution of 60 g. of oxalic acid in 300 ml. of diglyme. Subsequently, the mixture is heated for 2 hours at 100°, evaporated under reduced pressure and equilibrated between 2N aqueous sodium hydroxide and chloroform. The chloroform extracts are washed with water, dried and purified on a column containing 300 g. of aluminum oxide (activity grade II). 1-{10,11-dihydro-2-methyl-8-(methylthio)dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine is obtained as a light oil. The corresponding maleate is precipitated from acetone and melts at 193°-194°.

reactant | 1-{2-methyl-8-(methylthio)-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine | CC1=CC2=C(SC3=C(C(=C2)N2CCN(CC2)C)C=C(C=C3)SC)C=C1 | C21H24N2S2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | diglyme | COCCOCCOC | C6H14O3
product | 1-{10,11-dihydro-2-methyl-8-(methylthio)dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine | CC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)C)C=C(C=C3)SC)C=C1 | C21H26N2S2
